US07964726B2
3-fluoro-N-{2-[2-(trimethylsilyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]ethyl}benzamide
A suspension of 3-iodo-4-pyridineamine (594 mg), 3-fluoro-N-[4-(trimethylsilyl)-3-butynyl]benzamide (710 mg), palladium acetate (61 mg), triphenylphosphine (142 mg), sodium acetate (443 mg) and lithium chloride (115 mg) in N,N-dimethylformamide (6 mL) and acetonitrile (3 mL) was irradiated with microwave (100 W) for 30 minutes, poured into water and then extracted with ethyl acetate. The organic layer was washed in turn with an aqueous saturated sodium hydrogen carbonate solution and saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (parallel separation purification system) to obtain the titled compound having the following physical properties (404.8 mg).

reactant | 3-iodo-4-pyridineamine | 594 mg | IC=1C=NC=CC1N | C5H5IN2
reactant | 3-fluoro-N-[4-(trimethylsilyl)-3-butynyl]benzamide | 710 mg | FC=1C=C(C(=O)NCCC#C[Si](C)(C)C)C=CC1 | C14H18FNOSi
reactant | triphenylphosphine | 142 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium acetate | 443 mg | C(C)(=O)[O-].[Na+]
reactant | lithium chloride | 115 mg | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 61 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 3-fluoro-N-{2-[2-(trimethylsilyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]ethyl}benzamide | FC=1C=C(C(=O)NCCC2=C(NC3=C2C=NC=C3)[Si](C)(C)C)C=CC1 | C19H22FN3OSi
